US05506219
n-BuLi (1.6M in hexane, 554 ul, 0.83 mmol) was added to a solution of cis-1-ethoxy-2-(tri-n-butylstannyl)ethylene (333 mg, 0.92 mmol) in dry THF (4 ml) at -78° C. The mixture was stirred at -78° C. for one hour, then cooled to -100° C. (liquid N2 /MeOH) and treated with a solution of 2-(4-fluorophenyl)-4-(1-methylethyl)-6-phenyl-3-pyridinecarboxaldehyde (221 mg, 0.69 mmol) in THF (2 ml). One hour after the addition, the temperature was raised to -78° C. and the solution was stirred for an additional one hour. TLC analysis indicated that the reaction was incomplete so an additional amount of the vinyl anion reagent (generated from 317 mg vinyl tin reagent, 370 ul of 1.6M n-BuLi and 4 ml THF) was added via canula at -78° C. the resulting solution stirred an additional 45 minutes. The mixture was warmed to 0° C., stirred for 15 minutes, then quenched with H2O (6 ml) and 10% HCl (6 ml). After one hour of vigorous mixing, the solution was made basic with 10% NaOH (12 ml) and extracted twice with Et2O. The combined Et2O layers were washed with H2O and brine, dried (Na2SO4), filtered and stripped to yield a yellow oil. Chromatographic purification (flash, Merck SiO2, 40% hexane in CH2Cl2 followed by straight CH2Cl2 afforded (E)-3-[2-(4-fluorophenyl)-4-(1-methylethyl)-6-phenyl-3-pyridinyl]-2-propenal (141 mg, 59%) as a light yellow foam.

reactant | n-BuLi | 0.83 mmol, 1.6M, 554 ul | [Li]CCCC
reactant | cis-1-ethoxy-2-(tri-n-butylstannyl)ethylene | 0.92 mmol, 333 mg | C(C)O\C=C/[Sn](CCCC)(CCCC)CCCC
reactant | N2 MeOH | N#N.CO
reactant | 2-(4-fluorophenyl)-4-(1-methylethyl)-6-phenyl-3-pyridinecarboxaldehyde | 0.69 mmol, 221 mg | FC1=CC=C(C=C1)C1=NC(=CC(=C1C=O)C(C)C)C1=CC=CC=C1 | C21H18FNO
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (E)-3-[2-(4-fluorophenyl)-4-(1-methylethyl)-6-phenyl-3-pyridinyl]-2-propenal | 141 mg, 59% | FC1=CC=C(C=C1)C1=NC(=CC(=C1/C=C/C=O)C(C)C)C1=CC=CC=C1 | C23H20FNO
